US07951810B2
Step d: 5-ethynyl-7H-pyrrolo[2,3-d]pyrimidine
5-[(trimethylsilyl)ethynyl]-7H-pyrrolo[2,3-d]pyrimidine (0.320 g, 1.49 mmol) and potassium carbonate (0.513 g, 3.72 mmol) were stirred in MeOH (6 mL) for 18 hours. The mixture was diluted with EtOAc, washed with saturated ammonium chloride, brine, dried over anhydrous magnesium sulfate, filtered and concentrated to give the title compound as an orange solid (0.185 g, 87%).

reactant | 5-[(trimethylsilyl)ethynyl]-7H-pyrrolo[2,3-d]pyrimidine | 1.49 mmol, 0.320 g | C[Si](C)(C)C#CC1=CNC=2N=CN=CC21 | C11H13N3Si
reactant | potassium carbonate | 3.72 mmol, 0.513 g | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 6 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-ethynyl-7H-pyrrolo[2,3-d]pyrimidine | 0.185 g, 87% | C(#C)C1=CNC=2N=CN=CC21 | C8H5N3
